Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
Iodinated Contrast Media - IV Dye
 
Attending: ___
 
Chief Complaint:
Lawnmower accident
 
Major Surgical or Invasive Procedure:
ORIF L long finger P3 fx, ___ flap closure L long finger, partial 
closure R ring finger distal injury

 
History of Present Illness:
___ is a RHD ___ M with a PMHX significant for
hypertension who presents with P3 amputations of the ring and
long finger (left hand). At 1030am this morning, he lifted his
lawnmower to fixed the blade when he injured his left hand. He
subsequently presented to the ___ ER where his wound was
irrigated and he received one dose of ancef and tetanus
prophylaxis. He denies numbness or paresthesias of his fingers 
to
the level of injury. He denies any other injuries or sources of
pain. He 

 

PMHx: 
Hypertension
Hyperlipidemia
Benign Prostate Hyperplasia
 

PSHX:
Bilateral inguinal hernia repairs x3 (most recent ___
Right thumb procedure (___)

Meds: 
Lisinopril
Simvastatin
Furosemide
Finasteride
Pantoprazole

Allergies:
IV contrast (hives)

 
Past Medical History:
PMHx: 
Hypertension
Hyperlipidemia
Benign Prostate Hyperplasia
 
Social History:
___
Family History:
NC
 
Physical Exam:
Splint in place 
Fingers are well perfused with good capillary refill. 
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have partial amputation of left hand long finger and ring 
finger at the level of the distal P3 from lawnmower and was 
admitted to the orthopedic surgery service. The patient was 
taken to the operating room on ___ for ORIF L long finger P3 
fx, ___ flap closure L long finger, partial closure R ring finger 
distal injury, which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia. The patient was initially given IV fluids and IV 
pain medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given ___ 
antibiotics and anticoagulation per routine. The patient's home 
medications were continued throughout this hospitalization. The 
___ hospital course was otherwise unremarkable. He was 
continued on IV abx will be discharged on oral Keflex for 5 
days. 

At the time of discharge the patient's pain was well controlled 
with oral medications, splint was intact, and the patient was 
voiding/moving bowels spontaneously. The patient is NWB in the 
affected extremity, and will be discharged on keflex for 5 days. 
The patient will follow up with Dr. ___ routine. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Discharge Medications:
1.  Cephalexin 500 mg PO Q8H Duration: 5 Days  
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Docusate Sodium 100 mg PO BID  
5.  Aspirin 81 mg PO DAILY  
6.  Finasteride 5 mg PO DAILY  
7.  Lisinopril 30 mg PO DAILY  
8.  Pantoprazole 40 mg PO Q24H  
9.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
partial amputation of left hand long finger and ring finger at 
the level of the distal P3 from lawn-mower 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for revision amputation. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
-  NWB on affected extremity 

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

WOUND CARE:
- Please keep splint on until follow up

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

FOLLOW UP:
Please follow up with your Plastic Surgeon, Dr. ___. Please 
call  ___ to confirm your follow up appointment. 
 
Followup Instructions:
___